US09428452B2
methyl 5-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)-2-methoxybenzoate
To a stirred solution of methyl 5-(chlorosulfonyl)-2-methoxybenzoate (1 g, 3.78 mmol) in pyridine (3 mL) at 25° C. was added N-isobutyl-2,4-dimethylaniline (0.670 g, 3.78 mmol) and the reaction mixture stirred at 25° C. for 2 hours, then stood for 12 hours. The pyridine was evaporated in vacuo to give a yellow oil which was purified by silica (Si) chromatography (0-50% ethyl acetate-cyclohexane). The appropriate fractions were combined and evaporated in vacuo to give the required product, 1.485 g, as a colourless oil. LCMS [LCMS2] Rt 1.37 min, m/z (ES+) 406 (M+H).

reactant | methyl 5-(chlorosulfonyl)-2-methoxybenzoate | 3.78 mmol, 1 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C9H9ClO5S
reactant | N-isobutyl-2,4-dimethylaniline | 3.78 mmol, 0.670 g | C(C(C)C)NC1=C(C=C(C=C1)C)C | C12H19N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | methyl 5-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)-2-methoxybenzoate | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)OC)CC(C)C | C21H27NO5S
